US08877782B2
N-(4-Hydroxy-butyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (180 mg, 0.55 mmol) and 4-amino-1-butanol (59 mg, 0.66 mmol) in toluene (1 mL) was added 1,5,7-triazabicyclo[4.4.0]dec-5-ene (23 mg, 0.17 mmol) and the reaction stirred under argon for 6 h at room temperature. Saturated aqueous sodium bicarbonate (1 mL) was then added and the resulting mixture was extracted with ethyl acetate (3×5 mL). The combined organic extracts were then dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, dichloromethane:methanol=100:0 to 9:1) afforded the title compound (78 mg, 37%) which was obtained as a white solid. MS: m/e=382.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.55 mmol, 180 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
reactant | 4-amino-1-butanol | 0.66 mmol, 59 mg | NCCCCO | C4H11NO
reactant | 1,5,7-triazabicyclo[4.4.0]dec-5-ene | 0.17 mmol, 23 mg | N12CCCN=C2NCCC1 | C7H13N3
reactant | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Hydroxy-butyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 78 mg, 37% | OCCCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H23N3O4
